US07470699B2
Preparation of {4-[6-(2-Fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-(tetrahydro-furan-2-yl)-methanone (Compound C164)
Mixture of 4-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine (76 mg, 0.2 mmole), tetrahydro-furan-2-carboxylic acid (0.26 mmole, 1.3 eq), HATU (0.26 mmole, 1.3 eq), and TEA (0.4 mmole, 2 eq) in 2 mL THF was heated under microwave irradiation at 120° C. for 30 minutes. Mixture was purified by HPLC to give compound C164 as a yellow solid (78 mg, 81%). 1H NMR (CDCl3, 400 MHz) δ 1.85-2.17 (m, 8H), 2.21 (s, 3H), 3.10 (s, 3H), 3.75-3.80 (m, 2H), 3.86-3.91 (m, 2H), 3.96-4.01 (m, 2H), 4.68 (t, 1H), 5.40-5.45 (m, 1H), 7.44 (t, 1H), 7.78-7.82 (m, 2H), 8.21 (s, 1H). Exact mass calculated for C22H26FN3O6S 479.2, found 480.3 (MH+).

reactant | 4-(2-fluoro-4-methanesulfonyl-phenoxy)-5-methyl-6-(piperidin-4-yloxy)-pyrimidine | 0.2 mmole, 76 mg | FC1=C(OC2=NC=NC(=C2C)OC2CCNCC2)C=CC(=C1)S(=O)(=O)C | C17H20FN3O4S
reactant | tetrahydro-furan-2-carboxylic acid | 0.26 mmole, 1.3 eq | O1C(CCC1)C(=O)O | C5H8O3
reactant | HATU | 0.26 mmole, 1.3 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {4-[6-(2-Fluoro-4-methanesulfonyl-phenoxy)-5-methyl-pyrimidin-4-yloxy]-piperidin-1-yl}-(tetrahydro-furan-2-yl)-methanone | 78 mg, 81% | FC1=C(OC2=C(C(=NC=N2)OC2CCN(CC2)C(=O)C2OCCC2)C)C=CC(=C1)S(=O)(=O)C | C22H26FN3O6S
